US05679791
Preparation of Isopropyl 3-(5-amino-2-chloro-4-fluorophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate
A mixture of isopropyl 3-(2-chloro-4-fluoro-5-nitrophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate (34.8 g, 0.0835 mol) and 5% platinum on carbon (3.48 g) in ethyl acetate is hydrogenated until about 90 psi of hydrogen is taken up. The reaction mixture is then filtered and concentrated in vacuo to obtain a foam. Column chromatography of the foam using silica gel and 10% to 20% ether in methylene chloride solutions gives a yellow foam which contains two compounds. A mixture of the foam and 5% platinum on carbon (3.5 g) in ethyl acetate is hydrogenated until 5 psi of hydrogen is taken up. The reaction mixture is then filtered and concentrated in vacuo to give the title product as a yellow foam which is identified by NMR spectral analyses.

reactant | isopropyl 3-(2-chloro-4-fluoro-5-nitrophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate | 0.0835 mol, 34.8 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C(N(C(N(C1=O)C)=O)CC(=O)OC(C)C)=O | C15H14ClFN4O7
reactant | hydrogen | [H][H] | H2
reactant | ether | CCOCC | C4H10O
catalyst | platinum on carbon | 3.48 g | [Pt] | Pt
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | platinum on carbon | 3.5 g | [Pt] | Pt
product | Isopropyl 3-(5-amino-2-chloro-4-fluorophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate | NC=1C(=CC(=C(C1)N1C(N(C(N(C1=O)C)=O)CC(=O)OC(C)C)=O)Cl)F | C15H16ClFN4O5
